US04820821
80 ml of toluene were added to a solution of 10.0 g (48.2 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 80 ml of water. First 6.8 g (48.4 millimoles) of benzoyl chloride and then, in the course of 15 minutes, 4.0 g (100 millimoles) of NaOH in 20 ml of water were added to the two-phase system at room temperature, whilst stirring, the mixture was stirred for a further hour at room temperature and the product was then filtered off under suction. The solid obtained was washed with water, dried and recrystallized from ethanol. 9.5 g (72% of theory) of 4-benzoylimino-1,4-dihydro-1-phenylpyridazine were isolated as yellow crystals of melting point 175°-176° C.

reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 48.2 millimoles, 10.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | benzoyl chloride | 48.4 millimoles, 6.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaOH | 100 millimoles, 4.0 g | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 4-benzoylimino-1,4-dihydro-1-phenylpyridazine | 9.5 g, 72% | C(C1=CC=CC=C1)(=O)N=C1C=NN(C=C1)C1=CC=CC=C1 | C17H13N3O
